US09085540B2
A mixture of 3,5-dichloro-2-iodopyrazine (2 g), cyclopropylboronic acid (750 mg), tetrakistriphenylphosphine palladium (0) (1.68 g), potassium phosphate (3.09 g), toluene (40 mL), and water (4 mL) was stirred at 110° C. overnight. After leaving to be cooled, the insoluble matter was removed by decantation, followed liquid separation by the addition of ethyl acetate and water. The organic phase was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; hexane:ethyl acetate=98:2) to obtain 3,5-dichloro-2-cyclopropylpyrazine (784 mg) as a colorless oily material.

reactant | 3,5-dichloro-2-iodopyrazine | 2 g | ClC=1C(=NC=C(N1)Cl)I | C4HCl2IN2
reactant | cyclopropylboronic acid | 750 mg | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate | 3.09 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 4 mL | O | H2O
product | 3,5-dichloro-2-cyclopropylpyrazine | 784 mg | ClC=1C(=NC=C(N1)Cl)C1CC1 | C7H6Cl2N2
